US05574044
A mixture of 1.5 g of 1,3-dihydro-1-(4-oxocyclohexyl)-2H-benzimidazol-2-one, 1.12 g of ethyl 4-amino-1-piperidinecarboxylate, 20 mL of 1,2-dichloroethane, 0.40 mL of glacial acetic acid and 1.79 g of sodium triacetoxyborohydride was stirred at room temperature for 48 h. The reaction mixture was poured into 50 mL chloroform and 50 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×25 mL of chloroform and the combined organic layers dried over MgSO4 and concentrated under reduced pressure. Chromatography of the crude product on silica gel, eluting with 10% methanol in ethyl acetate gave 1.3 g of 1,3-dihydro-1-{trans-4-[1-ethoxycarbonyl-4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one as a white solid: 1H NMR (400 MHz, CDCl3) 9.8-9.9 (br m, 1H), 7.30 (m, 1H), 7.11-7.02 (m, 4H), 4.37 (m, 1H), 4.17-4.06 (m, 4H), 3.15 (m, 1H), 2.88 (t, 2H), 2.7 (m, 1H), 2.55 (m, 2H), 1.97 (d, 2H), 1.86 (d, 2H), 1.65 (q, 4H), 1.25 (m, 5H). Analysis calculated for C21H30N4O3C: 65.26, H: 7.82, N: 14.46 found C: 65.20, H: 7.57, N: 14.15.

reactant | 1,3-dihydro-1-(4-oxocyclohexyl)-2H-benzimidazol-2-one | 1.5 g | O=C1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C13H14N2O2
reactant | ethyl 4-amino-1-piperidinecarboxylate | 1.12 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | sodium triacetoxyborohydride | 1.79 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.40 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 1,3-dihydro-1-{trans-4-[1-ethoxycarbonyl-4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one | 1.3 g | C(C)OC(=O)N1CCC(CC1)N[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C21H30N4O3
